US07524847B2
4-[7-(2-Butynyl)-9-(2-cyano-ethyl)-8-oxo-8,9-dihydro-7H-purin-6-yl]piperazine-1-carboxylic acid t-butyl ester
4-[9-(2-Cyano-ethyl)-8-oxo-8,9-dihydro-7H-purin-6-yl]piperazine-1-carboxylic acid t-butyl ester (623 mg) was dissolved in N,N-dimethylformamide (10 mL). Potassium carbonate (300 mg) and 1-bromo-2-butyne (0.18 mL) were then added to this solution. The reaction solution was stirred at room temperature for 19 hours, then water (20 mL) and 1 N hydrochloric acid (5 mL) were added. This was then twice extracted with ethyl acetate, and the obtained organic layer was washed with water and saturated brine. The resulting organic layer was dried over magnesium sulfate, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give the title compound (484 mg).

reactant | 4-[9-(2-Cyano-ethyl)-8-oxo-8,9-dihydro-7H-purin-6-yl]piperazine-1-carboxylic acid t-butyl ester | 623 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C2NC(N(C2=NC=N1)CCC#N)=O | C17H23N7O3
reactant | Potassium carbonate | 300 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2-butyne | 0.18 mL | BrCC#CC | C4H5Br
reactant | hydrochloric acid | 1 N, 5 mL | Cl | ClH
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | 20 mL | O | H2O
product | 4-[7-(2-Butynyl)-9-(2-cyano-ethyl)-8-oxo-8,9-dihydro-7H-purin-6-yl]piperazine-1-carboxylic acid t-butyl ester | 484 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C2N(C(N(C2=NC=N1)CCC#N)=O)CC#CC | C21H27N7O3
